** sch_path: /foss/designs/CHIP-PLL/schematics/misc/level_shifter.sch
.subckt level_shifter vph out vpl in gd
*.PININFO in:I out:O gd:I vph:I vpl:I
MM1 1_stage_out in vpl vpl sg13_lv_pmos w=2u l=0.45u ng=1
MM3 1_stage_out in net1 gd sg13_lv_nmos w=1u l=0.45u ng=1
MM4 net1 in gd gd sg13_lv_nmos w=1u l=0.45u ng=1
MM2 2_stage_out 1_stage_out vpl vpl sg13_lv_pmos w=2u l=0.45u ng=1
MM5 2_stage_out 1_stage_out net4 gd sg13_lv_nmos w=1u l=0.45u ng=1
MM6 net4 1_stage_out gd gd sg13_lv_nmos w=1u l=0.45u ng=1
MM7 net2 3_stage_out vph vph sg13_hv_pmos w=1u l=0.45u ng=1
MM8 3_stage_out 2_stage_out gd gd sg13_hv_nmos w=4u l=0.45u ng=1
MM9 4 1_stage_out net2 vph sg13_hv_pmos w=1u l=0.45u ng=1
MM10 3_stage_out 2_stage_out net3 vph sg13_hv_pmos w=2u l=0.45u ng=1
MM11 net3 4 vph vph sg13_hv_pmos w=2u l=0.45u ng=1
MM12 4 1_stage_out gd gd sg13_hv_nmos w=2u l=0.45u ng=1
MM15 buf_out_1 3_stage_out vph vph sg13_hv_pmos w=2u l=0.45u ng=1
MM14 buf_out_1 3_stage_out net5 gd sg13_hv_nmos w=1u l=0.45u ng=1
MM13 net5 3_stage_out gd gd sg13_hv_nmos w=1u l=0.45u ng=1
MM16 buf_out_2 buf_out_1 vph vph sg13_hv_pmos w=4u l=0.45u ng=1 m=2
MM17 buf_out_2 buf_out_1 net6 gd sg13_hv_nmos w=2u l=0.45u ng=1 m=2
MM18 net6 buf_out_1 gd gd sg13_hv_nmos w=2u l=0.45u ng=1 m=2
MM19 out buf_out_2 vph vph sg13_hv_pmos w=4u l=0.45u ng=1 m=8
MM20 out buf_out_2 net7 gd sg13_hv_nmos w=4u l=0.45u ng=1 m=4
MM21 net7 buf_out_2 gd gd sg13_hv_nmos w=4u l=0.45u ng=1 m=4
.ends
